US05409936
A mixture of 2-n-butyl-4-(2-aminoethyl)-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylimidazole hydrochloride (0.278 g), ethyl glyoxylate (0.179 g) and ethanol (5 ml) is refluxed for three days. To the mixture is added chloroform, and the mixture is washed, dried and evaporated to remove the solvent. The solvent is purified by silica gel column chromatography (solvent; chloroform/methanol=10.1) to give ethyl 2-n-butyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate (0.136 g) as a foam.

reactant | 2-n-butyl-4-(2-aminoethyl)-1-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methylimidazole hydrochloride | 0.278 g | Cl.C(CCC)C=1N(C=C(N1)CCN)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1
reactant | ethyl glyoxylate | 0.179 g | C(C=O)(=O)OCC | C4H6O3
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-n-butyl-3-[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl-4,5,6,7-tetrahydroimidazo[4,5-c]pyridine-4-carboxylate | 0.136 g | C(CCC)C1=NC2=C(C(NCC2)C(=O)OCC)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C27H31N7O2
